US04304642
The procedure of Example 1 was repeated using dimethyldisulphide (96 mg; 1.02 mmol) and 1-hexane (670 mg: 8 mmol) in acetonitrile (15 ml) at +1.20 V until 1.3 coulomb equivalents of charge had been passed. After the addition of water and extraction with diethyl ether there was obtained 36 mg of 2-acetamido-1-methylthio-hexane. Mass Spec. m/e 189 (M+), 130 (57%) and 86 (100%). I.R. 3290 & 1645 cm-1.

reactant | dimethyldisulphide | 1.02 mmol, 96 mg | CSSC | C2H6S2
reactant | 1-hexane | 8 mmol, 670 mg | CCCCCC | C6H14
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-acetamido-1-methylthio-hexane | 36 mg | C(C)(=O)NC(CSC)CCCC | C9H19NOS
